US05405844
(3S ,4R)-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]-4-[(3R)-6-methoxycarbonyl-4-oxochroman-3-yl]-azetidin-2-one.
Starting from 960 mg (3.35 mmol) of (3S, 4R)-4-acetoxy-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]-azetidin-2-one and 1.03 g (5.0 mmol) of methyl 4-oxochroman-6-yl carboxylate, 370 mg (25%) of the less polar diastereomer were obtained after chromatography (eluent: toluene/ethyl acetate=10: 1, 1.11, then 2:1) as described under step 1 in Example 14. -1H-NMR (270 MHz, CDCl3): 6 m 0.08 and 0.10 (2×1s, 2×3H, SiCH3); 0.90 (s, 9H, SiC(CH3)3); 1.28 (d, 3H, CH--CH3); 2.85-2.98 (m, 2H, O--CH2 --CH and H-3); 3.72 (dd, 1H, H-4); 3.92 (s, 3H, CO2CH3); 4.18 (mc, 1H, CH--CH3); 4.32 and 4.65 (2×mc, 2×1H, O--CH2 --CH); 6.26 (bs, 1H, NH); 7.03 (d, 1H, aromatic H); 8.18 (dd, 1H, aromatic H) 8.59 (d, 1H, aromatic H).

reactant | (3S, 4R)-4-acetoxy-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]-azetidin-2-one | 3.35 mmol, 960 mg | C(C)(=O)O[C@@H]1[C@@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | methyl 4-oxochroman-6-yl carboxylate | 5.0 mmol, 1.03 g | O=C1CCOC2=CC=C(C=C12)C(=O)OC | C11H10O4
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | (3S ,4R)-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]-4-[(3R)-6-methoxycarbonyl-4-oxochroman-3-yl]-azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@@H]1COC2=CC=C(C=C2C1=O)C(=O)OC)=O | C22H31NO6Si
